US07777031B2
6-(4-Cyclopropyl-[1,4]diazepane-1-carbonyl)-3-(4-methylsulfanyl-phenoxy)-pyridine-2-carboxylic acid amide
A mixture of 6-(4-cyclopropyl-[1,4]diazepane-1-carbonyl)-3-(4-methylsulfanyl-phenoxy)-pyridine-2-carbonitrile (171.0 mg), 28% aq. NH3 (5 mL), and 30% aq. H2O2 (1.0 mL) in MeOH (4.0 mL) was stirred for 1.5 h. The mixture was diluted with DCM and washed with satd. aq. Na2S2O3. The organic layer was dried and concentrated. The residue was purified by reverse-phase HPLC followed by FCC to give the title compound (46.4 mg, 26%). MS (ESI): mass calcd. for C22H26N4O3S, 426.17; m/z found, 427.8 [M+H]+. 1H NMR (d6-acetone): 7.74-7.72 (dd, J=8.5, 2.5 Hz, 1H), 7.55 (br s, 1H), 7.51-7.49 (dd, J=8.5, 1.5 Hz, 1H), 7.33 (d, J=8.5 Hz, 2H), 7.03 (d, J=8.5 Hz, 2H), 6.82 (br s, 1H), 3.71-3.68 (m, 2H), 3.65-3.61 (m, 2H), 2.93-2.88 (m, 2H), 2.85-2.80 (m, 2H), 2.49 (s, 3H), 1.96-1.80 (m, 3H), 0.46-0.44 (m, 1H), 0.42-0.40 (m, 1H), 0.37-0.36 (m, 1H), 0.32-0.30 (m, 1H).

reactant | 6-(4-cyclopropyl-[1,4]diazepane-1-carbonyl)-3-(4-methylsulfanyl-phenoxy)-pyridine-2-carbonitrile | 171.0 mg | C1(CC1)N1CCN(CCC1)C(=O)C1=CC=C(C(=N1)C#N)OC1=CC=C(C=C1)SC | C22H24N4O2S
reactant | NH3 | 5 mL | N | H3N
reactant | H2O2 | 1.0 mL | OO | H2O2
solvent | MeOH | 4.0 mL | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-(4-Cyclopropyl-[1,4]diazepane-1-carbonyl)-3-(4-methylsulfanyl-phenoxy)-pyridine-2-carboxylic acid amide | 46.4 mg, 26% | C1(CC1)N1CCN(CCC1)C(=O)C1=CC=C(C(=N1)C(=O)N)OC1=CC=C(C=C1)SC | C22H26N4O3S
